US07638541B2
Step 6: 4-(4-Methanesulfonyloxymethyl-thiazol-2-yl)-4-methyl-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-(4-hydroxymethyl-thiazol-2-yl)-4-methyl-piperidine-1-carboxylic acid tert-butyl ester (0.42 g, 1.3 mmol) in methylene chloride (10 mL) was added methanesulfonyl chloride (0.19 g, 1.7 mmol) and triethylamine (0.2 g, 2 mmol) at 0° C. After stirring at 0° C. for 1 hour, the mixture was diluted with EtOAc and washed with H2O and brine. After drying (Na2SO4), the solvent was removed in vacuo, and the residue was purified by silica column chromatography with EtOAc/hexanes to afford the desired product.

reactant | 4-(4-hydroxymethyl-thiazol-2-yl)-4-methyl-piperidine-1-carboxylic acid tert-butyl ester | 1.3 mmol, 0.42 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)C=1SC=C(N1)CO | C15H24N2O3S
reactant | methanesulfonyl chloride | 1.7 mmol, 0.19 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 2 mmol, 0.2 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(4-Methanesulfonyloxymethyl-thiazol-2-yl)-4-methyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)C=1SC=C(N1)COS(=O)(=O)C | C16H26N2O5S2
